US03932432
2(3,5-Dimethoxyphenyl)-3-Methyl-5-(p-Fluorophenyl)Pentane
3,5-Dimethoxy propiophenone (52.0 g.) was added to a suspension prepared from 13.9 g. 57% sodium hydride in mineral oil (which had been freed of mineral oil by washing with toluene) and 130 ml. toluene. The resulting mixture was refluxed 30 minutes, 51 g. of 2(p-fluorophenyl)ethyl bromide added and refluxed 21/2 hours. The mixture was worked up with water and HCl and the product distilled to give 66.4 g. 1-(3,5-dimethoxyphenyl)-2-methyl-4(p-fluorophenyl)-1-butanone b.p. 160 - 175/0.3mm. This ketone in 300 ml. ether was treated with 130 ml. of 3 molar methyl magnesium bromide in ether and worked up with ammonium chloride to give 71.0 g. 2(3,5-dimethoxyphenyl)-3-methyl-5(p-fluorophenyl)-2-pentanol. This alcohol was hydrogenated in acetic acid containing 2 ml. H2SO4 using palladium catalyst to give 55.0 g. of desired compound b.p. 150 - 155/0.3mm. Gas chromatography showed 2 isomers of ratio 63/37.

reactant | 1-(3,5-dimethoxyphenyl)-2-methyl-4(p-fluorophenyl)-1-butanone | COC=1C=C(C=C(C1)OC)C(C(CCC1=CC=C(C=C1)F)C)=O | C19H21FO3
reactant | methyl magnesium bromide | 3 molar | C[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | 2(3,5-dimethoxyphenyl)-3-methyl-5(p-fluorophenyl)-2-pentanol | COC=1C=C(C=C(C1)OC)C(C)(C(CCC1=CC=C(C=C1)F)C)O | C20H25FO3
reactant | H2SO4 | OS(=O)(=O)O | H2O4S
solvent | ether | CCOCC | C4H10O
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
catalyst | palladium | [Pd] | Pd
product | 2(3,5-Dimethoxyphenyl)-3-Methyl-5-(p-Fluorophenyl)Pentane | COC=1C=C(C=C(C1)OC)C(C)C(CCC1=CC=C(C=C1)F)C | C20H25FO2
